US07888364B2
320 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 400 mg of 4-(methoxycarbonyl)benzoic acid via Procedure G to give methyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoate. 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoate was then hydrolyzed via Prodedure M to give 550 mg of 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid. 50 mg of 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid was coupled to 3-aminopyridine via Procedure G. The organic layer was evaporated to dryness and purified on reverse phase HPLC to yield N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4-(pyridin-3-yl)terephthalamide. MS (Q1) 429 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 320 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(methoxycarbonyl)benzoic acid | 400 mg | COC(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O4
product | methyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoate | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C(=O)OC)C=C1)C1=NC=CC=C1 | C20H15ClN2O3
